US07781478B2
A solution of methyl 3-cyano-1-ethyl-1H-indole-6-carboxylate (1.60 g, 7.02 mmol), prepared by the method described in example 1A from methyl 1H-indole-6-carboxylate, in THF (35 mL) is treated with 1N NaOH (7.7 mL, 7.7 mmol) and heated at reflux for 2.5 h. After cooling to room temperature, most of the THF is removed and the solution is diluted with H2O and extracted with ether (2×). The ether extracts are discarded. The aqueous phase is then acidified with 6N HCl to pH 2 and then extracted with EtOAc (3×). The EtOAc layers are combined, washed with saturated NaCl and then dried and concentrated to afford 1.43 g (95%) of 3-cyano-1-ethyl-1H-indole-6-carboxylic acid as a white solid.

reactant | methyl 3-cyano-1-ethyl-1H-indole-6-carboxylate | 7.02 mmol, 1.60 g | C(#N)C1=CN(C2=CC(=CC=C12)C(=O)OC)CC | C13H12N2O2
reactant | methyl 1H-indole-6-carboxylate | N1C=CC2=CC=C(C=C12)C(=O)OC | C10H9NO2
reactant | NaOH | 7.7 mmol, 1N, 7.7 mL | [OH-].[Na+]
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | 3-cyano-1-ethyl-1H-indole-6-carboxylic acid | 1.43 g, 95% | C(#N)C1=CN(C2=CC(=CC=C12)C(=O)O)CC | C12H10N2O2
